US07776875B2
Preparation of Intermediate 1-(4-chloro-2-formyl-phenoxymethyl)-cyclopentanecarbonitrile
To a solution of the crude toluene-4-sulfonic acid 1-cyano-cyclopentylmethyl ester in DMF (70 mL) was added 5-chloro-2-hydroxy-benzaldehyde (12.48 g, 80 mmol) and K2CO3 (13.25 g, 96 mmol). After heated at 100° C. for 3 h, the reaction mixture was poured into water. The solution was diluted with EtOAc (200 mL), washed with water, dried and concentrated to give the title compound as a yellow oil (17.4 g). The oil was used for next step reaction directly without further purification.

reactant | toluene-4-sulfonic acid 1-cyano-cyclopentylmethyl ester | C(#N)C1(CCCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C14H17NO3S
reactant | 5-chloro-2-hydroxy-benzaldehyde | 80 mmol, 12.48 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | K2CO3 | 96 mmol, 13.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 1-(4-chloro-2-formyl-phenoxymethyl)-cyclopentanecarbonitrile | 17.4 g | ClC1=CC(=C(OCC2(CCCC2)C#N)C=C1)C=O | C14H14ClNO2
